US05847153
Step 7 Preparation of 2-[(4-methoxybenzenesulfonyl)methyl]-5-(4-methoxybenzenesulfonyl)-pentanoic acid.
A mixture of 2-[(4-methoxybenzenesulfonyl)methyl]-5-(4-methoxybenzenesulfonyl)-pentanoic acid, ethyl ester (0.70 g, 1.4 mmol) in 6N hydrochloric acid (20 ml) is refluxed overnight. The mixture is transferred to ethyl acetate which is extracted with aqueous sodium bicarbonate. The combined aqueous extract is acidified with concentrated hydrochloric acid and extracted with ethyl acetate. This organic extract is concentrated in vacuo to yield the title compound as a white solid.

reactant | 2-[(4-methoxybenzenesulfonyl)methyl]-5-(4-methoxybenzenesulfonyl)-pentanoic acid, ethyl ester | 1.4 mmol, 0.70 g | COC1=CC=C(C=C1)S(=O)(=O)CC(C(=O)OCC)CCCS(=O)(=O)C1=CC=C(C=C1)OC | C22H28O8S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | 2-[(4-methoxybenzenesulfonyl)methyl]-5-(4-methoxybenzenesulfonyl)-pentanoic acid | COC1=CC=C(C=C1)S(=O)(=O)CC(C(=O)O)CCCS(=O)(=O)C1=CC=C(C=C1)OC | C20H24O8S2
